US07737166B2
N-(5-Cyano-2-fluoro-3-hydroxy-6-methyl-biphenyl-4-yl)-2-hydroxyacetamide (I-217)
A catalyst 10%-palladium carbon (40.0 mg) was added to an ethanol (10 ml) solution of 2-(benzyloxy)-N-(5-cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)acetamide (I-89) (120 mg, 0.307 mmol), followed by stirring under hydrogen atmosphere at room temperature for 15 hours. After the reaction, the insoluble matter was removed by filtration, the filtrate was concentrated under reduced pressure to obtain the entitled compound. Not purified, this was used in the next reaction as such.

reactant | 2-(benzyloxy)-N-(5-cyano-2-fluoro-3-hydroxy-6-methylbiphenyl-4-yl)acetamide | C(C1=CC=CC=C1)OCC(=O)NC1=C(C(=C(C(=C1C#N)C)C1=CC=CC=C1)F)O | C23H19FN2O3
catalyst | palladium carbon | 40.0 mg | [C].[Pd]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(5-Cyano-2-fluoro-3-hydroxy-6-methyl-biphenyl-4-yl)-2-hydroxyacetamide | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)O)NC(CO)=O | C16H13FN2O3
